Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amiodarone
 
Attending: ___
 
___ Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF THE PRESENTING ILLNESS:  
This ___ male (___) with past medical
history of HFpEF (Ef 58%), severe tricuspid regurgitation, CKD 3
(baseline 1.4-1.5), active basal cell cancer (abdomen, declined
treatment ___, HTN, Afib on apixaban, and SSS s/p PPM who
presents with fever. 

He reported possible onset of R-sided abdominal pain last night
(but denied later on repeat questioning) without nausea, emesis,
CP, SOB, melena, hematochezia or dysuria. In the ED, he reported
that he had an episode of diarrhea the day before (although on
the floor, he also denied this). 

In the ED, initial vitals were:  
T 102.2  HR 110  BP 135/75  RR 16  O2 Sat 96% RA 

Exam notable for:  
General: Ill-appearing
Pulmonary: Bibasilar crackles
Abdominal/GI: Right upper quadrant and right lower quadrant
tenderness

Labs notable for:  
UA positive for large leukocytes, positive for nitrites, 30
protein, few bacteria, previously grew pan-sensitive 
pseudomonas.
Cr 2.1
Lactate 2.2 -> 1.6 -> 2.7
CBC: WBC 10.1, Hgb ___, Plt 122
BNP 2249

Imaging was notable for:  

CT A/P with Contrast ___
1. Moderate right and small left nonhemorrhagic pleural
effusions. Cannot exclude overlying infectious process.
2. No acute findings within the abdomen or pelvis to correlate
with the patient's symptoms.
3. Resolution of previously demonstrated colonic wall 
thickening.
There is persistent trace subhepatic nonhemorrhagic fluid with
some haziness of the right-sided mesentery which overall appears
improved from the prior study. No organized fluid collections.
4. Interval mild increase in size of a 3.0 cm left pelvic
sidewall soft tissue density lesion.
5. Extensive diverticulosis of the bladder, unchanged from the
prior study and likely related to chronic outlet obstruction.

CXR ___
1. Increased pulmonary vascular congestion with findings
concerning for central pulmonary edema, however superimposed
pneumonia is difficult to exclude.
2. Interval increase in moderate cardiomegaly.

Patient was given:  
- IV ceftriaxone 1g at 3AM
- Apixaban 2.5mg PO
- Hydroxychloroquine 200mg PO
- APAP 1g
- IV ciprofloxacin 400mg
- PO azithromycin 500mg

Consults: None

VS Prior to Transfer: 
HR 85  BP 111/58  RR 18  O2 Sat 96% RA 

Upon arrival to the floor, patient reports overall feeling well.
He endorses that fever started the night before (T=102)
associated with chills and shivering, but he otherwise had no
symptoms. Specifically he reported increased urinary frequency
without dysuria or hematuria. He also reported that he has had
dyspnea with turning to the side while laying in bed over the
last day, but he denies cough. He has had no sick contacts. He
does intermittently cough when he eats.

He reports that about ___ weeks ago, he had a stent placed in 
his
left lower extremity vein at the ___
wound healing. (___). He was prescribed tramadol for
pain, which he still uses intermittently. He received no
antibiotics. He has been seen weekly and was last seen this past
___. He was told that his wound was healing well.

On the floor, he also reports new onset of left back pain. He 
has
had some itching on his back recently without rash. He denies 
any
headache, blurred vision, or other complaints.

On reviewing his chart, it appears that he has had issues with
left lower extremity arterial insufficiency and underwent
angiography and PCI on ___ ___. He was
to get another procedure in several weeks due to non-healing
ulcers and pain at rest. 

He also has a history of severe C. diff diarrhea requiring PO
vancomycin and flagyl. He was most recently treated for C.diff 
in
___ when he was admitted for lightheadedness and 
diarrhea.
He had a prolonged taper of vancomycin then.

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative  
 
Past Medical History:
-heart failure with preserved EF
-severe TR on last ECHO
-CKD
-HTN
-atrial fibrillation
-SSS s/p PPM
-colon CA s/p hemicolectomy
-seronegative RA/CPPD disease
-macrocytic anemia
-active hepatitis C
-iron deficiency 
-basal cell carcinoma on abdomen (declined treatment ___ 
-chronic sialoadenitis 

 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
VITAL SIGNS: T 97.6 BP 114 / 66 HR 77 RR 20 O2 Sat 95 2L 
GENERAL:  Appears comfortable, in no distress. Sitting up in bed
HEENT:  EOMI. Oral mucosa moist.
NECK:  No adenopathy. No JVD appreciated but with significant
regurg from TR.
CARDIAC:  Regular rate and rhythm, no murmurs.
LUNGS:  Lungs with crackles at the bases. No wheezes.
ABDOMEN:  Soft, nontender, nondistended.
EXTREMITIES:  2+ lower extremity edema. Venous insufficiency.
Left leg wrapped. Poor pulses appreciated given bandages.
NEUROLOGIC:  Mood and affect appropriate
SKIN:  Venous stasis and insufficiency as above.

DISCHARGE PHYSICAL EXAM:
========================
VITAL SIGNS: 
___ 0859 Temp: 98.3 PO BP: 128/64 HR: 77 RR: 20 O2 sat: 96%
O2 delivery: RA 
Weight: 157.8lbs/71.6kg

GENERAL:  Appears comfortable, in no distress. Sitting up in 
bed.
HEENT:  EOMI. Oral mucosa moist.
NECK:  No adenopathy. No JVD appreciated but with significant
regurg from TR.
CARDIAC:  Regular rate and rhythm, no murmurs.
LUNGS:  Lungs with soft crackles at the bases. No wheezes.
ABDOMEN:  Soft, nontender, nondistended.
EXTREMITIES:  2+ lower extremity edema extending up to his mid
shins. Venous insufficiency.
SKIN:  Venous stasis and insufficiency as above. Multiple
ecchymosis over extremities in upper and lower extremities and 
on
chest. Open skin on bilateral upper extremities.

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 01:30AM   WBC-10.1* RBC-3.06* HGB-8.2* HCT-28.1* MCV-92 
MCH-26.8 MCHC-29.2* RDW-22.4* RDWSD-75.6*
___ 01:30AM   NEUTS-82.5* LYMPHS-11.1* MONOS-5.9 EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-8.30* AbsLymp-1.12* AbsMono-0.59 
AbsEos-0.00* AbsBaso-0.01
___ 01:30AM   GLUCOSE-83 UREA N-45* CREAT-2.1* SODIUM-137 
POTASSIUM-4.6 CHLORIDE-97 TOTAL CO2-25 ANION GAP-15
___ 01:35AM   LACTATE-2.2*
___ 01:30AM   LIPASE-29
___ 01:30AM   proBNP-___*
___ 06:33PM   PO2-47* PCO2-54* PH-7.32* TOTAL CO2-29 BASE 
XS-0

MICROBIOLOGY:
==============
___    BLOOD CULTUREBlood Culture, Routine-PRELIMINARY 
{STREPTOCOCCUS GALLOLYTICUS SSP. PASTEURIANUS (STREPTOCOCCUS 
BOVIS)}; Anaerobic Bottle Gram Stain-FINAL; Aerobic Bottle Gram 
Stain-FINAL

___ CULTURE-FINAL {PSEUDOMONAS AERUGINOSA}

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      PSEUDOMONAS AERUGINOSA.    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     2 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------     1 S
GENTAMICIN------------     4 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S

S. PNEUMONIAE ANTIGENS,       Not Detected        Not Detected
URINE         

PERTINENT LABS:
===============
CBC Trend
___ 01:30AM BLOOD WBC-10.1* RBC-3.06* Hgb-8.2* Hct-28.1* 
MCV-92 MCH-26.8 MCHC-29.2* RDW-22.4* RDWSD-75.6* Plt ___
___ 06:40AM BLOOD WBC-10.2* RBC-2.87* Hgb-7.8* Hct-27.1* 
MCV-94 MCH-27.2 MCHC-28.8* RDW-22.6* RDWSD-78.0* Plt ___
___ 01:10PM BLOOD WBC-7.7 RBC-2.68* Hgb-7.2* Hct-24.4* 
MCV-91 MCH-26.9 MCHC-29.5* RDW-22.5* RDWSD-75.2* Plt ___
___ 05:51AM BLOOD WBC-8.4 RBC-2.55* Hgb-6.9* Hct-23.1* 
MCV-91 MCH-27.1 MCHC-29.9* RDW-22.6* RDWSD-74.9* Plt ___
___ 05:52AM BLOOD WBC-8.0 RBC-2.81* Hgb-7.7* Hct-25.9* 
MCV-92 MCH-27.4 MCHC-29.7* RDW-21.7* RDWSD-73.6* Plt ___
___ 06:30AM BLOOD WBC-6.9 RBC-2.59* Hgb-7.1* Hct-24.0* 
MCV-93 MCH-27.4 MCHC-29.6* RDW-21.6* RDWSD-72.8* Plt ___

Creatinine Trend
___ 01:30AM BLOOD Glucose-83 UreaN-45* Creat-2.1* Na-137 
K-4.6 Cl-97 HCO3-25 AnGap-15
___ 06:40AM BLOOD Glucose-94 UreaN-53* Creat-2.3* Na-139 
K-5.0 Cl-99 HCO3-22 AnGap-18
___ 10:00PM BLOOD Glucose-123* UreaN-74* Creat-3.0* Na-134* 
K-4.8 Cl-95* HCO3-22 AnGap-17
___ 06:52AM BLOOD Glucose-98 UreaN-78* Creat-3.2* Na-136 
K-4.3 Cl-98 HCO3-25 AnGap-13
___ 05:47AM BLOOD Glucose-107* UreaN-82* Creat-2.7* Na-140 
K-4.6 Cl-102 HCO3-25 AnGap-13
___ 06:30AM BLOOD Glucose-119* UreaN-86* Creat-2.6* Na-138 
K-4.3 Cl-100 HCO3-24 AnGap-14

Lactate Trend
___ 01:35AM BLOOD Lactate-2.2*
___ 08:00AM BLOOD Lactate-1.6
___ 01:23PM BLOOD Lactate-2.7*
___ 06:33PM BLOOD Lactate-1.6
___ 06:50AM BLOOD Lactate-1.5

CRP Trend
___ 06:52AM BLOOD CRP-28.3*
___ 05:52AM BLOOD CRP-14.4*

DISCHARGE LABS:
===============
___ 06:30AM BLOOD WBC-6.9 RBC-2.59* Hgb-7.1* Hct-24.0* 
MCV-93 MCH-27.4 MCHC-29.6* RDW-21.6* RDWSD-72.8* Plt ___
___ 06:30AM BLOOD Glucose-119* UreaN-86* Creat-2.6* Na-138 
K-4.3 Cl-100 HCO3-24 AnGap-14
___ 06:30AM BLOOD Calcium-8.4 Phos-5.3* Mg-2.5

Imaging/Studies:
================
CXR ___
1. Increased pulmonary vascular congestion with findings 
concerning for 
central pulmonary edema, however superimposed pneumonia is 
difficult to 
exclude. 
2. Interval increase in moderate cardiomegaly. 

___ CT A/P with Contrast
1. No finding in the abdomen/pelvis to explain the patient's 
symptoms.  
Bilateral pleural effusions, right greater than left, 
potentially masking 
underlying pulmonary process as possible cause for the patient's 
symptoms. 
2. Interval resolution of colitis and decrease in ascites, now 
minimal. 
3. Slight interval increase in size of left pelvic sidewall 
lymph node, now 
measuring 2.8 x 3 cm. 
4. Stable extensive bladder diverticulosis. 
  
___ TTE
IMPRESSION: Possible vegetation on the tricuspid valve (see clip 
42). Differential diagnosis
includes fibrin strand on RV pacer lead. Moderately dilated mild 
to moderately hypokinetic right
EMR 2853-P-IP-OP (___) Name: ___ MRN: ___ 
Study Date: ___ 7:30:00 p. ___
ventricle. Severe tricuspid regurgitation. Low normal global 
right ventricular systolic function. At
least moderate mitral regurgitation. Moderate pulmonary 
hypertension. Small pericardial
effusion without evidence for tamponade.
Compared with the prior TTE (images reviewed) of ___ , 
possible vegetation seen on the
tricuspid valve, there is more tricuspid regurgitation, the 
right ventricle is more dilated and hypokinetic,
the left ventricle is less vigorous.

___
1.  Interval improvement of mild pulmonary edema. 
2.  Unchanged bilateral pleural effusions. 
3.  No focal consolidation concerning for pneumonia. 

___
Normal renal ultrasound.  No evidence of hydronephrosis.

 
Brief Hospital Course:
SUMMARY: ___ ___ with PMH HfPEF 58%, TR, CKD III (Cr 1.5), 
Afib on apixaban, SSS s/p PPM, HTN who presents with fever. +/- 
abdominal pain, left flank pain. Found to have blood cx growing 
S. bovis concerning for colon cancer. He was management 
conservatively given his goals of care, and was discharged to a 
skilled nursing facility with IV antibiotics.

ACUTE ISSUES
===================
#Bacteremia 
#Sepsis
#Endocarditis
He presented with fever and was found to have positive blood 
cultures growing GPCs (no GNRs). Initially thought to be d/t 
recent instrumentation for ___ stent placement but now with 
echo showing vegetation and BCx speciated to s. Bovis. This 
association is well known to be correlated with colon cancer. 
Additionally it is possible and highly likely that the lead of 
the pacemaker is also infected per the echo. Of note, the 
patient has a history of basal cell cancer which he and his 
family chose not to pursue treatment for. Additionally, CT scan 
did not show any colonic pathology, though this was a CTA and 
not a barium contrast study. urine legionella negative. He 
received vancomycin and ceftriaxone, but eventually transitioned 
to IV Ceftriaxone 2g q24hr for a total 4 week course ___ - 
___. A PICC was placed on ___. Cardiology was consulted and 
suggested TEE. However, this was not within patient's goals of 
care, per his daughter. Removal of pacemaker is also not within 
goals of care. 
- Pt needs weekly CBC with diff, BUN, Cr, AST, ALT, Tbili, Alk 
phos and CRP

# Hypoxia- 2L NC
# Elevated BNP- at baseline
# Chronic HFpEF
# Acute decompensated heart failure 
His normal regimen is Torsemide 40mg daily and, PRN metolazone 
2.5mg. His BNP on admission was 2200s, at baseline (last BNP 
also ___ in early ___ but with CXR showed congestion at 
admission. His weight is 160lb which is similar to his discharge 
weight of 159lb in ___, during which he was clinically 
euvolemic. He required O2 intermittently at 2L and was found to 
have crackles in lung bases, with JVD, and edema extending 
higher than on admission. CXR with interval improvement of mild 
pulmonary edema and stable as of ___. His metoprolol was 
continued for his tachycardia ___ A. fib found on EKG. His 
Lisinopril and isosorbide mononitrate were held given concern 
for infection as well as ___.

# ___ on CKD: 
He has baseline CKD III with Cr 1.2-1.6. Most recent Cr was 1.5 
in ___, now presenting with Cr 2.3 and increased to 3.2, 
was 2.6 on day of discharge. This could be secondary to ATN in 
setting of sepsis (although should be improved by now given 
normotension while in house) vs. contrast-induced nephropathy 
(received contrast on ___ vs. obstruction (has required 
frequent straight caths) vs. cardiorenal syndrome (but not 
overtly volume overloaded on exam, CXR stable, did not respond 
well to IV diuresis). A renal U/S showed no hydronephrosis. 
Intermittent hemodialysis was discussed but the patient 
determined that was not within his goals of care. Foley catheter 
was placed on day of discharge for continued urinary retention. 
He should get a foley trial as an outpatient in about one week 
with Urology.

Stable issues:
==============
#Acute coronary syndrome (Stable, resolved)
Patient complained of CP radiating to L arm with a pressure like 
feeling, SOB, and had emesis x1 on day 3 of hospitalization. His 
sx also improved with NG. Trop elevated to 0.13, then 0.11. CKMB 
10. EKG with no changes appreciated. Cardiology informed and 
followed; no heparin drip was indicated given downtrending 
troponins. He received nitroglycerin sublingual x 3 with some 
resolution of pain, Aspirin 325mg, and Atorvastatin 80mg for 
this episode. 

#Pyuria- Stable
His pyuria, leukocystosis, flank pain, and frequent urination 
were initially concerning for pyelonephritis. Of note, he was 
previously pan-sensitive pseudomonas but also note suspicion for 
chronic colonization. At last admission, pt had urinary 
frequency but UTI was not treated since he improved with C.diff 
treatment. His current left back pain seems secondary to MSK 
strain. CT scan did not show any abdominal pathology and given 
his relatively normal LFTs, will not continue to trend or 
evaluate with ultrasound. On exam he has no CVA tenderness and 
his pain is reproducible by palpation of the upper hip, thus it 
is most likely to be musculoskeletal. A urine culture did show 
pseudomonas colonization but without urinary symptoms, 
antibiotic treatment was deferred.  

# Lactic acidosis (Resolved)
It peaked to 2.7, improved to 1.6 on recheck without fluids.

# Thrombocytopenia:
He has multiple ecchymosis over extremities and even truncal 
area, likely due to triple therapy with aspirin, clopidogrel and 
Apixaban. Aspirin was discontinued in consultation with his 
vascular surgeon given his recent lower extremity stent 
placement. His platelet count on discharge was 118, and multiple 
ecchymoses with skin tearing and bleeding on the extremities 
were persistent.

# Anemia: 
His Hgb is 8.2, baseline around 8. It could be related to CKD 
with poor EPO production vs anemia of chronic disease. No active 
bleeding identified. On vitamin B12 although notably his recent 
Vit B12 level was > ___ in ___ and his anemia is not 
macrocytic. He has also since been d/c-ed off methotrexate. His 
home vitamin B12 and folate were continued. He received 1U blood 
on ___. His discharge Hgb was 7.1, and he may require frequent 
transfusions.

CHRONIC ISSUES:
===============
# Goals of care: 
DNR/DNI was confirmed ___. He wishes to "go in peace". MOLST 
form was signed.

# Lower extremity insufficiency- s/p recent stent placement.
He noted some mild pain related to procedure, His Plavix and 
apixaban were continued, aspirin d/c'd given above conversation 
with vascular surgeon.

# SSS s/p Pacemaker
It was last interrogated by Dr. ___ on ___ and was noted 
to be functioning well without arrhythmias

# Benign prostatic hypertrophy
Finasteride was continued. Tamsulosin was added.

# Hx of HCV infection: 
This was documented on prior discharge summary with plan for 
Hepatology follow-up. Later, on ___, patient reported to Dr. 
___ that he wanted to minimize MD appointments 
and did not want to see Hepatology. "does not want to be treated 
for his abdominal BCC or hepatitis C, even though he is aware 
that without treatments, these conditions will likely worsen and 
negatively impact his death, namely risk of liver failure, 
invasive cancer, mets, death."

# Health maintenance
Multivitamin with folate, vitamin D, vitamin B12, atorvastatin 
were continued

# Rheumatoid arthritis
His hydroxychloroquine and prednisone 5mg daily were continued. 

Transitional Issues:
====================
NEW MEDICATIONS: 
- IV ceftriaxone 2g every 24 hours
Start Date: ___
Projected End Date: ___
- Tamsulosin

HELD MEDICATIONS: 
- Blood pressure medications: Lisinopril, isosorbide mononitrate
 --- Do not restart Lisinopril until ___ improves
- Diuresis: Torsemide, metolazone (Restart if weight goes up 
greater than ___ lbs)
- Potassium tablets

STOPPED MEDICATIONS: 
- Aspirin (due to increased risk of bleed)

ACCESS: ___

[] Patient is discharged with Foley. Recommend voiding trial in 
one week with ___ clinic
[] Antibiotic recommendations-
NEEDS WEEKLY: CBC with differential, BUN, Cr, AST, ALT, Total 
Bili, ALK PHOS, and CRP
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
[] Patient will follow with ID for final recommendations 
regarding antibiotic course. The ___ will schedule further 
follow up (the next follow up is ___ and contact the patient 
or discharge facility. All questions regarding outpatient 
parenteral antibiotics after discharge should be directed to the 
___ R.N.s at ___ or to the on-call ID 
fellow when the clinic is closed. 
[] Patient declined dialysis in house. If confusion worsens, 
consider worsening uremia and palliative care referral or 
hospice

Code: DNR/DNI
Proxy name: ___   
 Relationship: Daughter  Phone: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Finasteride 5 mg PO DAILY 
4. Hydroxychloroquine Sulfate 200 mg PO DAILY 
5. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Potassium Chloride 20 mEq PO DAILY 
8. PredniSONE 5 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Torsemide 40 mg PO DAILY 
11. Lisinopril 2.5 mg PO DAILY 
12. Apixaban 2.5 mg PO BID 
13. MetOLazone 2.5 mg PO PRN volume overload 
14. Aspirin 81 mg PO DAILY 
15. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
16. Clopidogrel 75 mg PO DAILY 
17. FoLIC Acid 1 mg PO DAILY 
18. TraMADol 50 mg PO QHS:PRN Pain - Severe 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q 24H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 g once a day 
Disp #*22 Intravenous Bag Refills:*0 
2.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth Every night Disp 
#*30 Capsule Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Apixaban 2.5 mg PO BID  
5.  Atorvastatin 10 mg PO QPM  
6.  Clopidogrel 75 mg PO DAILY  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Finasteride 5 mg PO DAILY  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
11.  Metoprolol Succinate XL 50 mg PO DAILY  
12.  PredniSONE 5 mg PO DAILY  
13.  TraMADol 50 mg PO QHS:PRN Pain - Severe  
14.  Vitamin D 1000 UNIT PO DAILY  
15. HELD- Isosorbide Mononitrate (Extended Release) 60 mg PO 
DAILY  This medication was held. Do not restart Isosorbide 
Mononitrate (Extended Release) until your doctor tells ___ to. 
___ may not need this anymore.
16. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until your doctor tells ___ to. ___ 
may not need this anymore.
17. HELD- MetOLazone 2.5 mg PO PRN volume overload  This 
medication was held. Do not restart MetOLazone until ___ gain 
weight >3lbs or feel short of breath.
18. HELD- Potassium Chloride 20 mEq PO DAILY  This medication 
was held. Do not restart Potassium Chloride until ___ take 
metolazone or torsemide.
19. HELD- Torsemide 40 mg PO DAILY  This medication was held. Do 
not restart Torsemide until ___ gain >3lbs or ___ feel short of 
breath.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
===================
S. ___ bacteremia
Acute on chronic heart failure with preserved ejection fraction
Acute Kidney injury on chronic kidney disease

Secondary Diagnoses:
====================
Urinary retention
Acute coronary syndrome
Thrombocytopenia
Anemia
Pyuria
Lower extremity vascular insufficiency
Atrial fibrillation
Sick sinus syndrome s/p pacemaker
Benign Prostatic Hypertrophy
Hx of HCV infection
Rheumatoid Arthritis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair with walker use intermittently.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of ___ at the ___ 
___!  

Why was I admitted to the hospital?  
- ___ were admitted for a fever
- ___ were found to be growing bacteria (Strep bovis) in your 
blood

What happened while I was in the hospital?  
- ___ received IV antibiotics to treat your blood infection. We 
placed a PICC line so that ___ can get IV antibiotics when ___ 
leave the hospital
- We offered to look at your pacemaker to see if it was 
infected, but ___ declined
- We offered a colonoscopy to look for colon cancer (which is 
often associated with your bacteria) but ___ declined
- ___ also received diuretic medicines to help remove the fluid 
in your body.
- Your kidney function got worse in the hospital. ___ declined 
dialysis. It was improving slightly on discharge, but we placed 
a Foley catheter (since ___ cannot urinate on your own). ___ 
will need to have this catheter in for about a week.

What should I do after leaving the hospital?  
- ___ will be going to ___
- ___ should see urology in about one week to see if we can 
remove your Foley
- Please take your medications as listed in discharge summary
- We stopped your diuretics, but if your weight starts to go up 
(over ___ lbs within ___ days), it is important to restart your 
diuresis. Discharge weight is 157 lbs.

Thank ___ for allowing us to be involved in your care, we wish 
___ all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___